US05767225
Procedure for 2.5 mole % BPA/MeHQ
Methylhydroquinone (1.95 moles, 242.1 g), bisphenol-A (0.05 moles, 11.41 g), chlorophenyl carbonate (2.06 moles, 582.8 g) and tetrabutylammonium tetraphenylborate (1.6 mmol, 0.899 g) were added to a 1L 3-neck flask and melted at 165° C. with overhead stirring. 89 wt % chlorophenol (3.52 mole, 365 mL) was collected by distillation at about 220° C. followed by a slight vacuum at 230° C. The molten prepolymer was quickly poured onto a foil-lined pyrex dish to obtain a solid (370 g). Subsequent polymerization took place in a 2CV Helicone reactor (500 mL capacity). The prepolymer (200 g) was added at 300° C. and stirred slowly until molten. Once molten, vacuum was applied and the system heated to 330° C. (stirrer setting=7.5). After about 10 minutes, the vacuum reached about 2.0 mm Hg. The polymer was extruded after about 20 minutes to obtain about 120 g of brittle light pink strands (flexible in clear areas and brittle in cloudy areas).

reactant | Methylhydroquinone | 1.95 moles, 242.1 g | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | chlorophenyl carbonate | 2.06 moles, 582.8 g | C(OC1=C(C=CC=C1)Cl)([O-])=O
reactant | chlorophenol | 3.52 mole, 365 mL | ClC1=C(C=CC=C1)O | C6H5ClO
catalyst | tetrabutylammonium tetraphenylborate | 1.6 mmol, 0.899 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bisphenol-A | 0.05 moles, 11.41 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
product | BPA MeHQ | 370 g | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O.COC1=CC=C(C=C1)O | InChI=1S/C15H16O2.C7H8O2/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;1-9-7-4-2-6(8)3-5-7/h3-10,16-17H,1-2H3;2-5,8H,1H3
